US09290451B2
a) 5-Cyclopentenyl-pyridine-2-carboxylic acid
5-Bromo-pyridine-2-carboxylic acid (CAN 30766-11-1, 3.4 g, 17 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride methylene chloride complex (CAN 95464-05-4, 530 mg, 0.65 mmol) and Cs2CO3 (6.3 g, 19 mmol) were added to a solution of 2-cyclopentenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (CAN 287944-10-9, 2.5 g, 13 mmol) in DMF (50 mL) and water (10 mL). The mixture was stirred at 150° C. overnight and concentrated in vacuo. Water (50 mL) was added and the mixture was extracted with ethyl acetate (3×40 mL). The organic layers were combined, dried over anhydrous sodium sulfate and concentrated to give the title compound (1.0 g, 31%); MS (EI): m/e=190.1 [M+H]+.

reactant | 5-Bromo-pyridine-2-carboxylic acid | 17 mmol, 3.4 g | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | Cs2CO3 | 19 mmol, 6.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-cyclopentenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 13 mmol, 2.5 g | C1(=CCCC1)B1OC(C(O1)(C)C)(C)C | C11H19BO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride methylene chloride | 0.65 mmol, 530 mg | C(Cl)Cl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 5-Cyclopentenyl-pyridine-2-carboxylic acid | 1.0 g, 31% | C1(=CCCC1)C=1C=CC(=NC1)C(=O)O | C11H11NO2
